US05728686
Diethyl [4-(3-ethyl-7-propylxanthin-1-yl)butyl]phosphonate
The title substance was prepared from 8.2 mmol of diethyl [4-(3-ethyl-xanthin-1-yl)butyl]phosphonate and 9.8 mmol of bromopropane analogously to Example 30 and chromatographed on silica gel (eluent: dichloromethane/methanol 20:1).

reactant | diethyl [4-(3-ethyl-xanthin-1-yl)butyl]phosphonate | 8.2 mmol | C(C)N1C(N(C(C=2NC=NC12)=O)CCCCP(OCC)(OCC)=O)=O | C15H25N4O5P
reactant | bromopropane | 9.8 mmol | BrCCC | C3H7Br
product | Diethyl [4-(3-ethyl-7-propylxanthin-1-yl)butyl]phosphonate | C(C)N1C(N(C(C=2N(C=NC12)CCC)=O)CCCCP(OCC)(OCC)=O)=O | C18H31N4O5P
